US04180504
When 1-butanol is replaced by equimolar amounts of phenol in the first reaction in this example, phenyl 3-phenylpropionate is obtained in a 93% yield if the reaction is performed in the presence of pTSA and in a 39% yield if the reaction is carried out in the absence of pTSA. M. p. of phenyl 3-phenylpropionate after distillation at reduced pressure and recrystallization from light petroleum: 15°-16° C. (lit. (13), 16°-17° C.).

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 1-butanol | C(CCC)O | C4H10O
product | phenyl 3-phenylpropionate | 93% yield | C1(=CC=CC=C1)CCC(=O)OC1=CC=CC=C1 | C15H14O2
